US06573289B1
Production of 1-(6-Isopropoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-(6-Isopropoxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (0.438 g) was dissolved in a mixture of acetic acid (20 ml) and water (0.5 ml), and the solution was stirred at 50° C. for 18 h. The solvent was evaporated, and to the mixture was added ethyl acetate. The mixture was washed with saturated aqueous solution of sodium hydrogencarbonate and saturated sodium chloride solution. The organic layer was dried and concentrated. The obtained residue was purified by silica gel column chromatography (eluent, dichloromethane:methanol=40:1→20:1) to give the titled compound (0.170 g) as an amorphous product.

reactant | 1-(6-Isopropoxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 0.438 g | C(C)(C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H38N2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.5 ml | O | H2O
product | 1-(6-Isopropoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.170 g | C(C)(C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C20H24N2O2
